US07531559B2
b) Preparation of 5-formyl-2-methyl-2H-1,2,3-triazole-4-carboxylic acid methyl ester
To a solution of freshly prepared 5-Chlorocarbonyl-2-methyl-2H-1,2,3-triazole-4-carboxylic acid methyl ester (2.7 g; ca. 13 mmol) in THF (270 ml) was added ethyl-diisopropyl-amine (1.88 g; 1.1 eq.). The mixture was hydrogenated in the presence of 2.7 g 10% Pd/C at 0-5° C. at normal pressure for 2½ hours and subsequently filtered from the catalyst. The clear solution was evaporated to give the crude as a solid which was dissolved again in ethyl acetate and stirred for a couple of minutes with silica gel. After filtration and evaporation 1.77 g (84%) of pure product as off-white crystals were obtained [m.p. 107-108° C.; 1H-NMR (300 MHz, CDCl3), δ (ppm): 10.43(s,1H), 4.33(s,3H), 4.01(s,3H)].

reactant | 5-Chlorocarbonyl-2-methyl-2H-1,2,3-triazole-4-carboxylic acid methyl ester | ca. 13 mmol, 2.7 g | COC(=O)C1=NN(N=C1C(=O)Cl)C | C6H6ClN3O3
reactant | ethyl-diisopropyl-amine | 1.88 g, 1.1 eq. | C(C)N(C(C)C)C(C)C | C8H19N
solvent | THF | 270 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 2.7 g | [Pd] | Pd
product | 5-formyl-2-methyl-2H-1,2,3-triazole-4-carboxylic acid methyl ester | COC(=O)C1=NN(N=C1C=O)C | C6H7N3O3
